US06008283
In a 4 neck, 1 liter flask fitted with thermocouple, mechanical stirrer, Barrett trap with condenser, nitrogen line, and stopper, was added 1,4-dibenzoylbenzene (90.5 g), hydrazine monohydrate (172.4 g) and diethyleneglycol (400 ml). The reaction mixture was heated at 100° C. for 1.5 hours. The mixture was then heated to 150° C. while collecting water and excess hydrazine hydrate in the Barrett trap. Potassium hydroxide (54.1 g) was slowly added over 0.5 hour while the temperature was slowly increased to 200° C. The temperature was maintained at 200° C. for 1 hour. The reaction was cooled to 80° C. and then poured into 500 ml water. The reactor was rinsed with an additional 550 ml water and combined with the quench solution. The water was extracted 3 times with 250 ml dichloromethane, the combined organic phases were washed with 500 ml water, dried over magnesium sulfate, filtered and the solvent removed on a rotary evaporator to give 1,4-dibenzylbenzene as a white solid (79.5 g, 97.4% yield).

reactant | 1,4-dibenzoylbenzene | 90.5 g | C(C1=CC=CC=C1)(=O)C1=CC=C(C=C1)C(C1=CC=CC=C1)=O | C20H14O2
reactant | hydrazine monohydrate | 172.4 g | O.NN
solvent | diethyleneglycol | 400 ml | C(COCCO)O | C4H10O3
product | 1,4-dibenzylbenzene | 79.5 g, 97.4% yield | C(C1=CC=CC=C1)C1=CC=C(C=C1)CC1=CC=CC=C1 | C20H18
